US06353136B1
15 mmol of p-dichlorobenzene (2.2 g), 15.5 mmol of piperidine (1.3 g), 15.5 mmol of NaOEt solution in ethanol (10% by weight) and 50 mg of trans-di-μ-chlorobis[2-[bis(1,1-dimethylethyl)phosphino]-2-methylpropyl-C,P]dipallium(II) are suspended in 75 ml of dioxane and refluxed for 15 hours. After aqueous work-up, extraction with petroleum ether and drying over sodium sulfate, the solvents are removed under reduced pressure. This gives crude N-(4-chlorophenyl)piperidine as a light brown liquid which can be purified by distillation (boiling point: 50° C./0.08 torr); melting point: 69° C.; yield: 59%.

reactant | p-dichlorobenzene | 15 mmol, 2.2 g | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
reactant | piperidine | 15.5 mmol, 1.3 g | N1CCCCC1 | C5H11N
reactant | NaOEt | 15.5 mmol | CC[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
product | N-(4-chlorophenyl)piperidine | yield: 59% | ClC1=CC=C(C=C1)N1CCCCC1 | C11H14ClN
